US07250442B2
1-Benzyl-3-(3,5-dimethyl-phenyl)-3-hydroxy-1,3-dihydro-indol-2-one
Using a method similar to Preparation 17 with 3-(3,5-dimethyl-phenyl)-3-hydroxy-1,3-dihydro-indol-2-one (50 mg, 0.20 mmol), 2-tert-butylimino-2-diethylamino-1,3-dimethyl-perhydro-1,3,2-diazaphosphorine (0.065 ml, 0.22 mmol) and benzyl bromide (0.024 mL, 0.20 mmol) in acetonitrile (1 mL) gives 68 mg (100%) of the title compound which was used without further purification.

reactant | 3-(3,5-dimethyl-phenyl)-3-hydroxy-1,3-dihydro-indol-2-one | 0.20 mmol, 50 mg | CC=1C=C(C=C(C1)C)C1(C(NC2=CC=CC=C12)=O)O | C16H15NO2
reactant | 2-tert-butylimino-2-diethylamino-1,3-dimethyl-perhydro-1,3,2-diazaphosphorine | 0.22 mmol, 0.065 ml | C(C)(C)(C)N=P1(N(CCCN1C)C)N(CC)CC | C13H31N4P
reactant | benzyl bromide | 0.20 mmol, 0.024 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 1-Benzyl-3-(3,5-dimethyl-phenyl)-3-hydroxy-1,3-dihydro-indol-2-one | 68 mg, 100% | C(C1=CC=CC=C1)N1C(C(C2=CC=CC=C12)(O)C1=CC(=CC(=C1)C)C)=O | C23H21NO2
